US04018799
A solution of 26.4 g. (0.1 mol.) of (±)-6-acetoxy-2-hydroxy-2,5,7,8 -tetramethylchroman in 200 ml. of dimethylsulfoxide was rapidly stirred as 32.5 g. (0.5 mol.) of granular KCN was added by sifting so that a uniformly dispersed suspension was obtained. The resulting mixture was cooled to 15° centigrade as 47.0 ml. of 12N aqueous H 2 SO 4 was added over 1.25 hours as the internal temp. was maintained at 20° centigrade. Tlc at this point showed a major, slower-running spot in addition to traces of starting material. The material was poured into diethylether and H 2 O. The ether solutions were washed with water and brine, dried over NaSO4 and stripped of solvent to yield (±)-2-cyano-4-(5-acetoxy-2-hydroxy-3,4,6-trimethylphenyl) butan-2-ol as a gum.

reactant | (±)-6-acetoxy-2-hydroxy-2,5,7,8 -tetramethylchroman | 0.1 mol | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1C)C)(C)O)C | C15H20O4
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
reactant | KCN | 0.5 mol | [C-]#N.[K+]
solvent | diethylether | C(C)OCC | C4H10O
product | (±)-2-cyano-4-(5-acetoxy-2-hydroxy-3,4,6-trimethylphenyl) butan-2-ol | C(#N)C(C)(CCC1=C(C(=C(C(=C1C)OC(C)=O)C)C)O)O | C16H21NO4
